US04404402
Preparation of 2-bromo-4,6-difluoroaniline.
A solution of bromine (16.0 g; 0.10 mol) in glacial acetic acid (25 ml) is added dropwise to a solution of 2,4-difluoroaniline (12.9 g; 0.10 mol) in glacial acetic acid (75 ml) while maintaining the temperature of the reaction mixture below 25° C. The reaction mixture is stirred an additional 0.5 hour during which time a solution of sodium acetate (5.48 g; 0.137 mol) in water (100 ml) is added. The reaction mixture is then diluted with water (300 ml), the precipitated purple solid is filtered, washed with water (100 ml) and dried under vacuum.

reactant | bromine | 0.10 mol, 16.0 g | BrBr | Br2
reactant | 2,4-difluoroaniline | 0.10 mol, 12.9 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | sodium acetate | 0.137 mol, 5.48 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 2-bromo-4,6-difluoroaniline | BrC1=C(N)C(=CC(=C1)F)F | C6H4BrF2N
